US07692005B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.249 mmol) and THF (2 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (47.5 mg, 0.249 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The crude residue was dissolved in EtOAc. The resulting solution was diluted with Hexanes to initiate the precipitation of the product. The solid precipitate that formed was filtered then washed with 3 mL of acetone yielding 32% (45 mg, 0.076 mmol) of the title compound.

reactant | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.249 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F)=O | C22H15F3N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.249 mmol, 47.5 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | acetone | 0.076 mmol, 3 mL, 45 mg | CC(=O)C | C3H6O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F)=O | C33H30F3N7O3
